US05624918
A 7.9 g portion of 2-aminobenzophenone, 4.7 g of 4-methylbenzonitrile and 2.0 g of 60% sodium hydride were suspended in 40 ml of THF and heated at 60° C. with stirring for 2 hours. After completion of the reaction, the reaction mixture was allowed to cool and the precipitate was collected by filtration, thus giving 5.7 g of 2-(4-methylphenyl)-4-phenylquinazoline as a crude product. Then 4.4 g of the compound thus obtained, 2.7 g of NBS and 0.2 g of benzoyl peroxide were suspended in 50 ml of carbon tetrachloride and refluxed with heating for 2 hours. The reaction mixture was allowed to cool and 20 ml of diethyl ether was added thereto. The crystals precipitated were separated by filtration. The filtrate was concentrated under reduced pressure. The residue was recrystallized from chloroform-n-hexane to provide 1.9 g of 2-(4-bromomethylphenyl)-4-phenylquinazoline as colorless needles. Then 1.9 g of the crystals thus obtained were suspended in 10 ml of triethyl phosphite and heated with stirring at 130° C. for 2 hours. After completion of the reaction, an excess of triethyl phosphite was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: chloroform: n-hexane=1:1) and recrystallized from diethyl ether-n-hexane to provide 0.2 g of the objective compound as colorless needles. Table 1 shows the structure and physical property (melting point) of the compound.

reactant | 2-aminobenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | 4-methylbenzonitrile | 4.7 g | CC1=CC=C(C#N)C=C1 | C8H7N
reactant | sodium hydride | 2.0 g | [H-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(4-methylphenyl)-4-phenylquinazoline | 5.7 g | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1 | C21H16N2
